US07943652B2
To a solution of 2-methyl-3-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-imidazo[1,2-a]pyridine (1.8 g, 6.56 mmol) in a mixture of acetonitrile and water (1:1 by volume, 16 mL) in a 100 mL plastic bottle was added HF (8 mL, 48% solution in water). The reaction mixture was stirred at room temperature for 96 h and solid sodium bicarbonate was added in batches until the mixture reached pH 6. The mixture was washed twice with ether, basified to pH 8 with solid sodium hydroxide, and extracted three times with dichloromethane. The combined dichloromethane extracts were dried over magnesium sulfate and concentrated in vacuo to give (2-methyl-imidazo[1,2-a]pyridin-3-yl)-acetaldehyde (922 mg) as a deep brown semi-solid that was used directly in the next step without further purification.

reactant | 2-methyl-3-[2-(2-trimethylsilanyl-ethoxy)-vinyl]-imidazo[1,2-a]pyridine | 6.56 mmol, 1.8 g | CC=1N=C2N(C=CC=C2)C1C=COCC[Si](C)(C)C | C15H22N2OSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 16 mL | O | H2O
product | (2-methyl-imidazo[1,2-a]pyridin-3-yl)-acetaldehyde | 922 mg | CC=1N=C2N(C=CC=C2)C1CC=O | C10H10N2O
